US06616846B2
Synthesis of zinc methacrylate-ethylene glycol dimethacrylate co-polymer
Zinc methacrylate (848 mg, 3.6 mmol), ethylene glycol dimethacrylate (678 ml, 3.6 mmol) and the radical initiator VAZO® (1,1′-azobis(cyclohexanecarbonitrile), Aldrich) (20 mg, 0.08 mmol) were dissolved in dimethylformamide (15 ml) in a borosilicate test tube. The solution was sonicated for 1 min and sparged with nitrogen. The test tube was covered with parafilm. The reaction mixture was stirred and placed in an oil bath which was then heated slowly over 1.5 hrs to 95° C. When the reaction mixture reached a temperature of 85° C., a precipitate started to form. Heating was continued for a total of 6 hrs and the polymer was left at room temperature overnight. The white polymer particles were filtered off and extracted with methanol in a Soxhlet apparatus for 8 hrs. The fines were removed by suspending particles in water and discarding the supernatant. This step was repeated until the supernatant was clear. The remaining polymer was filtered off and rinsed with methanol. The polymer was left to dry for 2 hours at room temperature, followed by overnight drying at 140° C.

reactant | Zinc methacrylate | 3.6 mmol, 848 mg | C(C(=C)C)(=O)[O-].[Zn+2].C(C(=C)C)(=O)[O-]
reactant | ethylene glycol dimethacrylate | 3.6 mmol, 678 ml | C(C(=C)C)(=O)OCCOC(C(=C)C)=O | C10H14O4
reactant | VAZO | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | zinc methacrylate ethylene glycol dimethacrylate | C(C(=C)C)(=O)[O-].[Zn+2].C(C(=C)C)(=O)[O-].C(C(=C)C)(=O)OCCOC(C(=C)C)=O | InChI=1S/C10H14O4.2C4H6O2.Zn/c1-7(2)9(11)13-5-6-14-10(12)8(3)4;2*1-3(2)4(5)6;/h1,3,5-6H2,2,4H3;2*1H2,2H3,(H,5,6);/q;;;+2/p-2
